US04921863
1-(2-Naphthyl)-1-[4-(p-fluorobenzoyl)piperidinyl]-2-diethylaminoethane hydrochloride:
1.4 g of 1-(2-naphthyl)-2-diethylaminoethanol was dissolved in 20 ml of dichloromethane. 2.4 ml of triethylamine and 0.9 ml of methanesulfonyl chloride were added to the solution under cooling with ice and the mixture was stirred at room temperature for 4.5 h. A solution of 1.2 g of 4-(p-fluorobenzoyl)piperidine in 25 ml of dioxane was added to the reaction mixture and the obtained mixture was refluxed for 2 h. After completion of the reaction, the product was purified according to silica gel column chromatography and then converted into its hydrochloride.

reactant | 1-(2-naphthyl)-2-diethylaminoethanol | 1.4 g | C1=C(C=CC2=CC=CC=C12)C(CN(CC)CC)O | C16H21NO
reactant | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.9 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4-(p-fluorobenzoyl)piperidine | 1.2 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 1-(2-Naphthyl)-1-[4-(p-fluorobenzoyl)piperidinyl]-2-diethylaminoethane hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)C(CN(CC)CC)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | InChI=1S/C28H33FN2O.ClH/c1-3-30(4-2)20-27(25-10-9-21-7-5-6-8-24(21)19-25)31-17-15-23(16-18-31)28(32)22-11-13-26(29)14-12-22;/h5-14,19,23,27H,3-4,15-18,20H2,1-2H3;1H
